US07439237B2
(1b) (E)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-acrylic Acid
51.0 g (158 mmol) (E)-2-acetylamino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-acrylic acid, dissolved in 408 ml NMP, were combined with 612 ml aqueous 4-molar hydrochloric acid solution and stirred for 3 hours at a bath temperature of 130° C. stirred. The reaction mixture was cooled and poured onto 2000 ml of water with stirring. The precipitate formed was suction filtered, washed with 400 ml of water, dried overnight at 60° C. and recrystallised from 1000 ml boiling toluene.

reactant | (E)-2-acetylamino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-acrylic acid | 158 mmol, 51.0 g | C(C)(=O)N\C(\C(=O)O)=C\C1=CC(=C(C(=C1)C(F)(F)F)N)Cl | C12H10ClF3N2O3
reactant | hydrochloric acid | 4-molar | Cl | ClH
reactant | water | 2000 ml | O | H2O
solvent | NMP | 408 ml | CN1CCCC1=O | C5H9NO
product | (E)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-acrylic Acid | NC1=C(C=C(C=C1C(F)(F)F)/C=C(\C(=O)O)/O)Cl | C10H7ClF3NO3
